US07494992B2
Preparation 50: 2-[(3-piperidinylmethyl)sulfanyl]pyridine hydrochloride salt
tert-Butyl 3-[(2-pyridinylsulfanyl)methyl]-1-piperidinecarboxylate (Preparation 51, 1.0 g, 3.2 mmol) in hydrogen chloride (4 M solution in dioxane, 8.1 ml) was stirred under nitrogen at room temperature. After 25 min a white solid precipitated out of solution. Diethyl ether was added and the reaction mixture was filtered and the solid washed with diethyl ether. The title compound was obtained as a solid (0.81 g, 100%).

reactant | tert-Butyl 3-[(2-pyridinylsulfanyl)methyl]-1-piperidinecarboxylate | 3.2 mmol, 1.0 g | N1=C(C=CC=C1)SCC1CN(CCC1)C(=O)OC(C)(C)C | C16H24N2O2S
reactant | hydrogen chloride | 4 M, 8.1 ml | Cl | ClH
product | 2-[(3-piperidinylmethyl)sulfanyl]pyridine hydrochloride salt | Cl.N1CC(CCC1)CSC1=NC=CC=C1 | InChI=1S/C11H16N2S.ClH/c1-2-7-13-11(5-1)14-9-10-4-3-6-12-8-10;/h1-2,5,7,10,12H,3-4,6,8-9H2;1H
